US05616586
2-Acetylquinoline (21.0 g, 0.123 mol) in acetic acid (210 mL) was hydrogenated over platinum oxide (1.0 g) under atmospheric pressure of hydrogen at room temperature until the theoretical amount of hydrogen was consumed. The mixture was passed through celite and concentrated. The residue was purified by column chromatography with 5:1 to 1:1 hexane/ethyl acetate to give 16.85 g of 2-(1-hydroxyethyl)tetrahydroquinoline (78%): 1H NMR (270 MHz, CDCl3) δ6.95 (m, 2H), 6.62 (td, 1H, J=7.3, 1 Hz), 6.51 (dd, 1H, J=7.3, 1 Hz), 3.81 (dq, 1H, J=10.2, 6.6 Hz), 1.87 (m, 1H), 1.76 (m, 1H), 1.20 (d, 3H, J=6.6 Hz).

reactant | 2-Acetylquinoline | 0.123 mol, 21.0 g | C(C)(=O)C1=NC2=CC=CC=C2C=C1 | C11H9NO
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 210 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 2-(1-hydroxyethyl)tetrahydroquinoline | 16.85 g, 78% | OC(C)C1NC2=CC=CC=C2CC1 | C11H15NO
